Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / minoxidil
 
Attending: ___
 
Chief Complaint:
no thrill palpated in fistula
 
Major Surgical or Invasive Procedure:
Stent insertion procedure with post-procedure fistulogram 
showing patent vessel

 
History of Present Illness:
___ y/o F with hx TIDM,gastroparesis, HTN and ESRD (HD ___ 
presenting with clotted left UE AV fistula clot. 

Patient states this has been happening on a weekly basis. She 
noted a thrill on ___, but on ___ before starting HD she 
could no longer hear the thrill and was unable to receive HD. 
She was next due on ___ but again no thrill palpated and sent 
to ED. This graft was thrombectomized on ___ and ___ ___. She will likely need a long viabahn stent placed (10cm) 
in the outflow/central lesion per call in via angio. 

Patient reports feeling more swollen in face and hands in the 
last week.. No SOB, ___ pain, nausea, vomiting, fevers, chills, 
erythema, warmth, or other sx. Strong right radial pulse. Left 
radial pulse present. Neurovascularly intact. 

Labs in the ED, potassium was 5.9 and patient was given 
kayexalate.  Systolic BP was 195 and spontaneously came back 
down to 150s. Patient's blood glucose was 59 and was treated 
with 12.5g dextrose IV.

 
Past Medical History:
- DM type I c/b peripheral neuropathy, gastroparesis, ESRD  
- ESRD previously PD, currently HD via tunneled IJ, left AVG 
maturing  
- Kidney/Pancreas transplant candidate: currently active on the 
blood group O list  
- HTN  
- Anemia of chronic disease  
- h/o enterococcal (VSE) peritonitis, ___  
- h/o frequent DKA  
- Hypothyroidism  
- Diastolic heart failure, followed by Dr. ___  
- Depression  
- Anxiety  
- Osteopenia  
- Ovarian cyst  
- h/o Bulimia Eating disorder (bulimia) since age ___, resolved  
___ per her report  
- h/o bacterial overgrowth  
- h/o vertebral fracture  
- h/o stress fracture in right ___ metatarsal ___  
- h/o pericarditis  
- s/p cataract surgery  
 
Social History:
___
Family History:
No history of DM type I or kidney disease; PGF died of MI in his 
early ___ mother receiving treatment for ovarian cancer; father 
has HTN.
 
Physical Exam:
EXAM ON ADMISSION:
PHYSICAL EXAM:  
Vitals: 97.6 73 153/88 16 98% RA   
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Arm with fistula: pulses palpable and neurovascularly intact
Neuro:  Alert and oriented x3, no focal deficits

EXAM ON DISCHARGE:
PHYSICAL EXAM:  
Vitals: 98.7 73 142/86 16 99% RA   
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Arm with fistula with thrills: pulses palpable and 
neurovascularly intact
Neuro:  Alert and oriented x3, no focal deficits

 
Pertinent Results:
ADMISSION LABS:

___ 07:50AM   ___ PTT-33.2 ___
___ 07:50AM   PLT COUNT-237
___ 07:50AM   NEUTS-64.9 ___ MONOS-7.5 EOS-2.7 
BASOS-1.1
___ 07:50AM   WBC-6.2 RBC-3.03* HGB-8.7* HCT-26.8* MCV-89 
MCH-28.9 MCHC-32.6 RDW-15.2
___ 07:50AM   CALCIUM-9.4 PHOSPHATE-5.0* MAGNESIUM-2.9*
___ 07:50AM   estGFR-Using this
___ 07:50AM   GLUCOSE-113* UREA N-80* CREAT-7.7*# 
SODIUM-133 POTASSIUM-5.9* CHLORIDE-96 TOTAL CO2-23 ANION GAP-20
___ 03:20PM   K+-5.7*

DISCHARGE LABS:

___ 06:40AM BLOOD WBC-5.5 RBC-3.10* Hgb-9.4* Hct-27.2* 
MCV-88 MCH-30.2 MCHC-34.4 RDW-16.1* Plt ___
___ 06:40AM BLOOD Glucose-109* UreaN-75* Creat-8.6* Na-133 
K-4.2 Cl-94* HCO3-23 AnGap-20

IMAGING AND STUDIES:

FISTULOGRAM
ULTRASOUND FISTULOGRAM  
  
Duplex evaluation was performed of the left upper extremity 
surgical AV 
fistula.  Brachial artery is patent.  Draining vein is filled 
with thrombus. 
  
IMPRESSION:  Occluded left upper extremity AV fistula graft 
including the 
draining vein 

 
Brief Hospital Course:
___ y/o F with hx TIDM,gastroparesis, HTN and ESRD (HD ___ 
presenting with clotted left UE AV fistula clot.

ACUTE ISSUES:

# CLOTTED FISTULA: Patient did not palpate thrills in her 
fistula and had experienced some difficulty with dialysis in the 
past two weeks.  ___ were consulted and patient underwent a stent 
placement to maintain patency of stent.  Fistulograms were done 
pre and post-stent placement to ensure that the clot was removed 
and vessel was patent.

CHRONIC ISSUES: 
 
#DM: Patient has type one diabetes on insulin (glargine 14 units 
at breakfast and insulin sliding scale). Patient's blood glucose 
was low (59) in ED and received 12.5mg IV dextrose .  She was 
managed in-house with a gentle insulin sliding scale

# HTN: Patient not currently on any medications. BP controlled 
off medications. Has not been compliant in the past with meds. 
SBP was 195 in ED but has come down to 150s.  Labile blood 
pressures likely due to missing dialysis.  She was discharged on 
captopril 12.5mg BID (dose which her PCP had placed her on 
initially)

# HYPERKALEMIA: Patient's admission potassium 5.9.  Likely due 
to lack of dialysis. EKG changes of peaked T-waves in V2 and 
patient asymptomatic. Patient has received one dose of calcium 
gluconate and kayexalate 30mg and K levels normalised after 
dialysis.
 
# ESRD: Patient on HD. Patient received one dose of HD in-house 
as patient missed most recent dose.  Nephrocaps were also 
continued in-house. 

# DEPRESSION:  stable, contd fluoxetine, mirtazepine

TRANSITIONAL ISSUES:
-please check glucose at PCP visit
-___ check potassium at PCP visit
-___ check creatinine at PCP visit
-___ ensure patient receiving dialysis successfully

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Fluoxetine 20 mg PO DAILY 
3. Glargine 14 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Mirtazapine 15 mg PO HS 
6. Nephrocaps 1 CAP PO DAILY 
7. Captopril 12.5 mg PO BID 
8. Ondansetron 8 mg PO Q8H:PRN nausea 
9. Prochlorperazine 25 mg PR Q12H:PRN nausea 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Captopril 12.5 mg PO BID 
3. Fluoxetine 20 mg PO DAILY 
4. Glargine 14 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Mirtazapine 15 mg PO HS 
7. Nephrocaps 1 CAP PO DAILY 
8. Ondansetron 8 mg PO Q8H:PRN nausea 
9. sevelamer CARBONATE 800 mg PO TID W/MEALS 
RX *sevelamer carbonate [Renvela] 800 mg 1 tablet(s) by mouth 
once daily Disp #*30 Tablet Refills:*0
10. Prochlorperazine 25 mg PR Q12H:PRN nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Clotted fistula

Secondary: Diabetes Type I
           ESRD on HD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure having you here at the ___ 
___.  You were admitted here for a clot in your 
fistula as shown by the fistulogram study. You had a stent 
placed by the interventional radiologists which opened up your 
fistula and you were able to receive dialysis.  Please keep your 
follow up appointment below.
 
Followup Instructions:
___